US07034039B2
Tert-butyl[6-(4-amino-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.14 g, 0.5 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 1 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give 3-(aminomethyl)-6-(4-amino-1,3-thiazol-2yl)-2-isobutyl-4-phenyl-1(2H)-isoquinolinone dihydrochloride (0.13 g, 92.9%) as crystals.

reactant | Tert-butyl[6-(4-amino-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.5 mmol, 0.14 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)N)=O)CC(C)C)=O | C28H32N4O3S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-6-(4-amino-1,3-thiazol-2yl)-2-isobutyl-4-phenyl-1(2H)-isoquinolinone dihydrochloride | 0.13 g, 92.9% | Cl.Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C=1SC=C(N1)N)=O)CC(C)C | InChI=1S/C23H24N4OS.2ClH/c1-14(2)12-27-19(11-24)21(15-6-4-3-5-7-15)18-10-16(8-9-17(18)23(27)28)22-26-20(25)13-29-22;;/h3-10,13-14H,11-12,24-25H2,1-2H3;2*1H
